Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:7],3.75368054378
[O:1].[O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.85208460832
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.495619076980001
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4],3.14990509247
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:12]([H:13])([H:14])[H:15]>>[O:1][C@@:2]([H:3])([C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.8765824646089999
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:3][H:4],6.068807756799999
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],3.49732285756
[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-6.12115673989
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],4.63133753504
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18],-4.85108635158
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3],5.02550869005
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14],3.69304731391
[O:1]=[c:2]1[c:3]([H:4])[c:5]([H:6])[c:7]1=[O:8]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[O:8],0.153518839999
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12]>>[H:9].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:10]([H:11])[H:12],2.8497103384500004
[H:3].[O:1]=[C:2]([C:4]#[C:5][H:6])[C:7]#[C:8][H:9]>>[O:1][C:2]([H:3])([C:4]#[C:5][H:6])[C:7]#[C:8][H:9],-0.791407283677
[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.0539128824800015
[H:1][C:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]=[C:10]([H:11])[H:12],1.98407273073
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.2485196634
[H:1][C:2][O:3][C:4]1[C:5][C:6]1([H:7])[H:8]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8],-1.39524291687
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],4.11385578419
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]1([H:7])[C:8][O:9][C:10]1([H:11])[H:12],-0.985829981289
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.73815027114
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:4][C:5],3.76657794305
[O:1][C:2]#[C:3][C:4][C:5]([H:6])[H:7]>>[C:2]#[C:3][C:4][C:5]([H:6])[H:7].[O:1],7.419629555
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][O:4],3.14291379811
[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-3.24063229385
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.657709662
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],4.61454748499
